US08871767B2
2-ethynyl-5-(6-(2-fluorophenyl)imidazo[1,2-b]pyridazin-2-yl)aniline
To a solution of 2-(4-ethynyl-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine (0.050 g, 0.139 mmol) in ethanol (3 mL) and water (1 mL) containing AcOH (0.834 mmol) is added iron (0.038 g, 0.695 mmol). The mixture is stirred and heated at 80° C. for 2 hours, then concentrated under reduced pressure and sat. aqueous NaHCO3 (20 mL) is added. The mixture is extracted with EtOAc (3×20 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography using a gradient of hexanes to EtOAc to afford the title compound (0.033 g, 73%) as a yellow solid: Rf 0.30 (1:1 EtOAc:hexanes); LCMS (m/z)=329.4 [M+H]+, tR=2.65 min. (compound same as Example 320)

reactant | 2-(4-ethynyl-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine | 0.139 mmol, 0.050 g | C(#C)C1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1)[N+](=O)[O-] | C20H11FN4O2
reactant | AcOH | 0.834 mmol | CC(=O)O | C2H4O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron | 0.695 mmol, 0.038 g | [Fe] | Fe
product | 2-ethynyl-5-(6-(2-fluorophenyl)imidazo[1,2-b]pyridazin-2-yl)aniline | 0.033 g, 73% | C(#C)C1=C(N)C=C(C=C1)C=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1 | C20H13FN4
